US03989694
To a solution of 4.6 g. (0.20 mol.) of sodium and 250 ml. of absolute ethanol was added under a nitrogen atmosphere 8.65 g. (0.05 mol.) of 5-amino-4-carbethoxy-1,2,3-thiadiazole. The reaction mixture was stirred 1 hour, 5 ml. of water was added and the mixture was refluxed for 12 hours. After cooling, the mixture was filtered and the solid product was washed with ethanol and ether and dried to give 4-carboxy-1,2,3-triazole-5-thiol trisodium salt.

reactant | sodium | 0.20 mol | [Na] | Na
reactant | ethanol | C(C)O | C2H6O
reactant | 5-amino-4-carbethoxy-1,2,3-thiadiazole | 0.05 mol | NC1=C(N=NS1)C(=O)OCC | C5H7N3O2S
solvent | water | O | H2O
product | 4-carboxy-1,2,3-triazole-5-thiol trisodium salt | [Na].[Na].[Na].C(=O)(O)C=1N=NNC1S | InChI=1S/C3H3N3O2S.3Na/c7-3(8)1-2(9)5-6-4-1;;;/h(H,7,8)(H2,4,5,6,9);;;
